### PR TITLE
feat(pauli): prove the epsilon triple-product identities

### PR DESCRIPTION
**Pull request by Robby955**
## Summary

Formalizes the epsilon-sensitive three-Pauli identities corresponding to equations (2.26) and
(2.27) tracked in #341, using Physlib's tensor/index notation.

The linked draft in #341 swaps the barred and unbarred Pauli factors on the right-hand sides;
the statements here use the corrected identities from the maintained reference.

This PR is stacked on #1567, which corrects the direction of non-involutive index permutations.
After #1567 merges, this branch can be rebased onto master so its diff contains only the Pauli
contribution.

## Changes

- In `Physlib/Relativity/Tensors/LeviCivita/Complex.lean`:
  - add `complexLorentzTensor.leviCivita_isReindexing`;
  - define `complexLorentzTensor.leviCivita`, with notation `ε4ℂ`, by complexifying the real
    Lorentz Levi-Civita tensor;
  - prove `complexLorentzTensor.leviCivita_eq_ofRat`, giving its exact standard-basis components
    with `ε⁰¹²³ = 1`;
  - add the private component-cast helper `basisIdxCongr_val` used by that proof.
- In `Physlib/Relativity/PauliMatrices/Relations.lean`:
  - prove `PauliMatrix.pauliContr_mul_pauliContrDown_mul_pauliContr`:
    `σ^μ barσ^ν σ^ρ = g^{μν}σ^ρ - g^{μρ}σ^ν + g^{νρ}σ^μ + i ε^{μνρκ}σ_κ`;
  - prove `PauliMatrix.pauliContrDown_mul_pauliContr_mul_pauliContrDown`, with conjugate Pauli
    matrices and the opposite epsilon sign;
  - add private component tables `sigmaComponent`, `barSigmaComponent`, `metricComponent`,
    `sigmaTensorComponent`, `barContrDownTensorComponent`, `barCoTensorComponent`,
    `sigmaCoDownTensorComponent`, and `metricTensorComponent`;
  - add private product encodings `sigmaBarProduct`, `sigmaBarProductComponent`,
    `barSigmaSigmaProduct`, `barSigmaSigmaProductComponent`, `metricSigmaProductComponent`, and
    `metricBarSigmaProductComponent`;
  - add private component bridge lemmas `toTensor_eq_ofRat_component`,
    `pauliContrDown_eq_ofRat_component`, `pauliCo_eq_ofRat_component`,
    `pauliCoDown_eq_ofRat_component`, `contrMetric_eq_ofRat_component`,
    `sigmaBarProduct_eq_ofRat`, `barSigmaSigmaProduct_eq_ofRat`,
    `metricSigmaProduct_eq_ofRat`, `metricBarSigmaProduct_eq_ofRat`,
    `toComplexNum_eq_add_neg_add_add_iff`, and `neg_I_mul_toComplexNum`.
- Import the complex Levi-Civita module from `Physlib.lean` and register its public API in the
  tensor API map.

## Reviewer map

1. Check the complex Levi-Civita definition and component theorem in
   `Tensors/LeviCivita/Complex.lean`.
2. Check the two public tensor identities at the end of `PauliMatrices/Relations.lean`, including
   the metric signature, epsilon signs, lowered Pauli factors, and Weyl-index order.
3. Check the private rational-complex component reductions immediately above those identities;
   the final `decide +revert +kernel` steps exhaust the finite Lorentz and Weyl basis assignments.
4. Check the root import and API-map entry.

## Verification

- `lake exe cache get`
- `lake build Physlib.Relativity.Tensors.Elab Physlib.Relativity.Tensors.LeviCivita.Complex Physlib.Relativity.PauliMatrices.Relations`
- `lake build`
- `lake exe lint_all`
- `./scripts/lint-style.sh`
- `git diff --check 02998c4e..c189e7fd`

The targeted build completed successfully with 3307 jobs, and the full build completed
successfully with 9339 jobs. `lint_all` exited successfully; its build, import, sorry/pseudo, and
Lean declaration checks passed. It printed existing repository-wide advisory style and
transitive-import findings outside this contribution.

## Risk / Rollback

These four-dimensional identities are convention-sensitive. The component proofs check every
Lorentz and Weyl basis assignment, including the metric signature, epsilon sign, lowered Pauli
index, and barred/unbarred ordering. No axioms, dependencies, or resource-limit options are
added.

Reverting the Pauli commit removes the new complex Levi-Civita tensor and both identities.

### CODE REVIEW

File: Physlib/Relativity/PauliMatrices/Relations.lean [hunk 1]
```diff
@@ -129,4 +130,218 @@ lemma auliContrDown_pauliContr_mul_add :
...
+
+/-- Equation (2.27), the conjugate three-Pauli identity
+`barσ^μ σ^ν barσ^ρ = g^{μν} barσ^ρ - g^{μρ} barσ^ν + g^{νρ} barσ^μ
+  - i ε^{μνρκ} barσ_κ`. -/
+lemma pauliContrDown_mul_pauliContr_mul_pauliContrDown : ({
+    σ^__ | μ β α ⊗ σ^^^ | ν α β' ⊗ σ^__ | ρ β' α' =
+      ((((η | μ ν ⊗ σ^__ | ρ β α')
+      + (-((η | μ ρ ⊗ σ^__ | ν β α'))))
+      + (η | ν ρ ⊗ σ^__ | μ β α'))
+      + ((-Complex.I) •ₜ (ε4ℂ | μ ν ρ κ ⊗ σ___ | κ β α')))
```
Comment (jstoobysmith) [inline Physlib/Relativity/PauliMatrices/Relations.lean]: We may be able to write this in a much nicer way using this \tau notation, instead of having to rely on a bunch of different simgas.

**Review by jstoobysmith — COMMENTED** [review]
Similar general comment to the other PR: 

Worth considering how much of the added definitions and lemmas are needed, how they can be reframed as useful API around existing results.

File: Physlib/Relativity/PauliMatrices/Relations.lean [hunk 2]
```diff
@@ -1,18 +1,19 @@
 /-
 Copyright (c) 2025 Joseph Tooby-Smith. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: Joseph Tooby-Smith
+Authors: Joseph Tooby-Smith, Robert Sneiderman
```
Comment (jstoobysmith) [inline Physlib/Relativity/PauliMatrices/Relations.lean]: Your name first here (alphabetical by last name)

File: Physlib/Relativity/PauliMatrices/Relations.lean [hunk 3]
```diff
@@ -129,4 +130,221 @@ lemma auliContrDown_pauliContr_mul_add :
...
+/-- Equation (2.26), the three-Pauli identity
+`σ^μ barσ^ν σ^ρ = g^{μν} σ^ρ - g^{μρ} σ^ν + g^{νρ} σ^μ
+  + i ε^{μνρκ} σ_κ`, with the lowered Lorentz index expressed using `τ`. -/
+lemma pauliContr_mul_pauliContrDown_mul_pauliContr : ({
+    σ^^^ | μ α β ⊗ σ^__ | ν β α' ⊗ σ^^^ | ρ α' β' =
+      ((((η | μ ν ⊗ σ^^^ | ρ α β')
+      + (-((η | μ ρ ⊗ σ^^^ | ν α β'))))
+      + (η | ν ρ ⊗ σ^^^ | μ α β'))
+      + (Complex.I •ₜ (ε4ℂ | μ ν ρ κ ⊗ σ^^^ | τ(κ) α β')))
+    }ᵀ : Prop) := by
```
Comment (jstoobysmith) [inline Physlib/Relativity/PauliMatrices/Relations.lean:191]: Can we not write this totally in terms of `σ^^^`? Similar for the lemma below

File: Physlib/Relativity/PauliMatrices/Relations.lean [hunk 4]
```diff
@@ -129,4 +130,221 @@ lemma auliContrDown_pauliContr_mul_add :
...
   decide +revert +kernel
 
+/-!
+
+## Triple products
+
+-/
+
+/-- Rational-complex components of the contravariant Minkowski metric. -/
+private def metricComponent {nμ nν : ℕ} (mu : Fin nμ) (nu : Fin nν) :
```
Comment (jstoobysmith) [inline Physlib/Relativity/PauliMatrices/Relations.lean]: Similar comment for all of these lemmas. 
One should not really make definitions like this where possible, instead make little lemmas around quantities which already exist, so people can use those APIs. Those little lemmas should appear next to the relevant quantities (e.g. the metric in this case).

File: Physlib/Relativity/PauliMatrices/Relations.lean [hunk 5]
```diff
@@ -129,4 +130,109 @@ lemma auliContrDown_pauliContr_mul_add :
...
+      Physlib.RatComplexNum.toComplexNum d +
+      Physlib.RatComplexNum.toComplexNum e) ↔
+      a = b + -c + d + e := by
+  rw [← map_neg, ← map_add, ← map_add, ← map_add]
+  exact Function.Injective.eq_iff Physlib.RatComplexNum.toComplexNum_injective
+
+private lemma neg_I_mul_toComplexNum (a : Physlib.RatComplexNum) :
+    (-Complex.I) * Physlib.RatComplexNum.toComplexNum a =
+      Physlib.RatComplexNum.toComplexNum (- (⟨0, 1⟩ * a)) := by
+  rw [neg_mul, Physlib.RatComplexNum.I_mul_toComplexNum, ← map_neg]
```
Comment (jstoobysmith) [inline Physlib/Relativity/PauliMatrices/Relations.lean:171]: Make non-private and move to the file where RatComplexNum defined

File: Physlib/Relativity/PauliMatrices/Relations.lean [hunk 6]
```diff
@@ -129,4 +130,109 @@ lemma auliContrDown_pauliContr_mul_add :
...
+
+private lemma leviCivita_mul_pauliDual :
```
Comment (jstoobysmith) [inline Physlib/Relativity/PauliMatrices/Relations.lean:173]: Make non-private.

File: Physlib/Relativity/PauliMatrices/Relations.lean [hunk 7]
```diff
@@ -129,4 +130,109 @@ lemma auliContrDown_pauliContr_mul_add :
...
+`barσ^μ σ^ν barσ^ρ = g^{μν} barσ^ρ - g^{μρ} barσ^ν + g^{νρ} barσ^μ
+  - i ε^{μνρκ} barσ_κ`, with barred and lowered forms expressed through index dualization `τ`. -/
+lemma pauliContrDown_mul_pauliContr_mul_pauliContrDown : ({
+    σ^^^ | μ τ(α) τ(β) ⊗ σ^^^ | ν α β' ⊗ σ^^^ | ρ τ(α') τ(β') =
+      ((((η | μ ν ⊗ σ^^^ | ρ τ(α') τ(β))
+      + (-((η | μ ρ ⊗ σ^^^ | ν τ(α') τ(β)))))
+      + (η | ν ρ ⊗ σ^^^ | μ τ(α') τ(β)))
+      + ((-Complex.I) •ₜ
+        (ε4ℂ | μ ν ρ κ ⊗ σ^^^ | τ(κ) τ(α') τ(β))))
+    }ᵀ : Prop) := by
```
Comment (jstoobysmith) [inline Physlib/Relativity/PauliMatrices/Relations.lean:220]: Compact the number of lines.

File: Physlib/Relativity/PauliMatrices/ToTensor.lean [hunk 8]
```diff
@@ -160,32 +160,168 @@ lemma toTensor_eq_asConsTensor :
...
+    dsimp only [M]
+    rw [dualLeftMetric_eq_ofRat]
+    rw [prodT_ofRat_ofRat]
+    rw [permT_ofRat]
+    rw [contrT_ofRat]
+    rw [permT_ofRat]
+    rw [permT_ofRat]
+  congr
+  funext b
+  decide +revert +kernel
```
Comment (jstoobysmith) [inline Physlib/Relativity/PauliMatrices/ToTensor.lean:223]: Compact the number of lines by combining the rw

File: Physlib/Relativity/PauliMatrices/ToTensor.lean [hunk 9]
```diff
@@ -160,32 +160,168 @@ lemma toTensor_eq_asConsTensor :
...
+    erw [crossToSlot_eq_crossToEnd]
+    erw [crossToEnd]
+    simp only [LinearMap.compr₂_apply, LinearMap.comp_apply]
+    dsimp only [M]
+    rw [dualRightMetric_eq_ofRat]
+    rw [prodT_ofRat_ofRat]
+    rw [permT_ofRat]
+    rw [contrT_ofRat]
+    rw [permT_ofRat]
+    rw [permT_ofRat]
```
Comment (jstoobysmith) [inline Physlib/Relativity/PauliMatrices/ToTensor.lean:245]: Likewise here and in all of the lemmas below.

File: Physlib/Relativity/PauliMatrices/Relations.lean [hunk 10]
```diff
@@ -129,4 +130,93 @@ lemma auliContrDown_pauliContr_mul_add :
...
+      ε4ℂ | μ ν ρ κ ⊗ σ_^^ | κ α β}ᵀ : Prop) := by
+  rw [pauliDual_eq_pauliCo, prodT_permT_right, contrT_permT]
+  apply permT_congr
+  · decide
+  · rfl
+
+/-- Equation (2.26), the three-Pauli identity
+`σ^μ barσ^ν σ^ρ = g^{μν} σ^ρ - g^{μρ} σ^ν + g^{νρ} σ^μ
+  + i ε^{μνρκ} σ_κ`, with barred and lowered forms expressed through index dualization `τ`. -/
+lemma pauliContr_mul_pauliContrDown_mul_pauliContr : ({
```
Comment (jstoobysmith) [inline Physlib/Relativity/PauliMatrices/Relations.lean:170]: One last comment from me on this pull request: I would compact the statements of this lemma and the next one because I think lots of the terms can appear on one line.

**Review by jstoobysmith — APPROVED** [review]
This now looks good to me. I've approved it and will merge shortly.
